US06558818B1
Dry N,N-dimethylformamide (10 ml) was added to a rapidly stirred mixture of 9,10-bis(dimethylmethylphosphonate)anthracene (395 mg, 0.935 mmoles), potassium t-butoxide (220 mg, 1.963 mmoles) and 3,5-bis(3′,5′-di-t-butylstyryl)benzaldehyde (1.000 g, 1.87 mmoles) under nitrogen and stirred at room temperature for 90 minutes. Distilled methanol (60 ml) was then added and the precipitate filtered and dried under suction. The crude product (925 mg) was recrystallized from dichloromethane-methanol and then chromatographed on flash silica using dichloromethane-pet. ether (40-60) (1:3) as the eluent. The solvent was removed to give 9,10-bis[3′,5′-bis(3″,5″-di-t-butylstyryl)styryl]anthracene (206 mg, 18%). lamdamax(film)/nm 308, 420.

reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | potassium t-butoxide | 1.963 mmoles, 220 mg | CC(C)([O-])C.[K+]
reactant | 3,5-bis(3′,5′-di-t-butylstyryl)benzaldehyde | 1.87 mmoles, 1.000 g | C(C)(C)(C)C=1C=C(C=CC=2C=C(C=O)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C39H50O
solvent | methanol | 60 ml | CO | CH4O
product | 9,10-bis[3′,5′-bis(3″,5″-di-t-butylstyryl)styryl]anthracene | 206 mg, 18% | C(C)(C)(C)C=1C=C(C=CC=2C=C(C=CC=3C4=CC=CC=C4C(=C4C=CC=CC34)C=CC3=CC(=CC(=C3)C=CC3=CC(=CC(=C3)C(C)(C)C)C(C)(C)C)C=CC3=CC(=CC(=C3)C(C)(C)C)C(C)(C)C)C=C(C2)C=CC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C94H110
